US05049634
2-Hydroxy-3-(4-dimethoxymethylphenoxy)propyl methacrylate (III-E)
In a 500 ml. 4-neck flask fitted with a mechanical stirrer, thermometer, condenser and a vented nitrogen bubbler were placed 84 g. 4-dimethoxymethyl phenol (0.5 mole), 71 g. glycidyl methacrylate (GMA) (0.5 mole), and 1.5 g. benzyl tributyl ammonium chloride (0.005 mole). The apparatus was flushed with air for 5 minutes and the solution was then heated to 80° C. for 5 hours. The progress of the reaction was followed from disappearance of the GMA. Gas chromatographic analysis of the reaction mixture indicated 95% reaction. The solution was cooled and dissolved in 250 ml. methylene chloride and washed three times with lN sodium hydroxide (100 ml.) and then with water until the washings were neutral. The organic layer was dried over magnesium sulfate and the solvent was removed at reduced pressure using a Rotovap. The oily residue was dried under high vacuum for 30 minutes. The yield was 133 g. (86%) product. H-1 NMR showed signals typical of GMA except the signal for the protons that were attached to the epoxide carbon at 2.8 and 3.3 ppm showed up as doublets and a quintet respectively. The spectrum also showed signals for the 4-dimethoxymethylphenyl group at ppms 7.8-6.9 and 3.4.

reactant | 4-dimethoxymethyl phenol | 0.5 mole | COC(C1=CC=C(C=C1)O)OC | C9H12O3
reactant | glycidyl methacrylate | 0.5 mole | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
catalyst | benzyl tributyl ammonium chloride | 0.005 mole | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
product | 2-Hydroxy-3-(4-dimethoxymethylphenoxy)propyl methacrylate | C(C(=C)C)(=O)OCC(COC1=CC=C(C=C1)C(OC)OC)O | C16H22O6
